US06919343B2
To a solution of trifluoropropionic acid (128 mg, 1.0 mmol) in DCM (1 mL), 1-ethyl-(3-dimethylaminopropyl)carbodiimide hydrochloride (229 mg, 1.2 mmol) and 1-hydroxy-7-azabenzotriazole (136 mg, 1.0 mmol) were added. The resulting solution was stirred at room temperature for 20 minutes, then 4′-((1R)-1-{[(1-aminocyclopropyl)carbonyl]amino}ethyl)-3-fluoro-1,1′-biphenyl-2-carboxylic acid (171 mg, 0.5 mmol) in 1 mL DCM was added, followed by N,N-diisopropylethylamine until pH=10 was achieved. The reaction mixture was stirred at ambient temperature under N2 for 2 hours, concentrated under vacuum and then partitioned between water and ethyl acetate. The organic extract was washed with brine, dried over anhydrous magnesium sulfate, filtered and concentrated under vacuum. The residue was subjected to column chromatography on silica gel eluted with 40% MeOH in CHCl3. Collection and concentration of appropriate fractions provided 3-fluoro-4′-{(1R)-1-[({1-[(3,3,3-trifluoropropanoyl)amino]cyclopropyl}carbonyl)amino]ethyl}-1,1′-biphenyl-2-carboxylic acid as a white powder.

reactant | trifluoropropionic acid | 1.0 mmol, 128 mg | FC(CC(=O)O)(F)F | C3H3F3O2
reactant | 1-ethyl-(3-dimethylaminopropyl)carbodiimide hydrochloride | 1.2 mmol, 229 mg | Cl.C(C)N=C=NCCCN(C)C
reactant | 1-hydroxy-7-azabenzotriazole | 1.0 mmol, 136 mg | ON1N=NC2=C1N=CC=C2 | C5H4N4O
reactant | 4′-((1R)-1-{[(1-aminocyclopropyl)carbonyl]amino}ethyl)-3-fluoro-1,1′-biphenyl-2-carboxylic acid | 0.5 mmol, 171 mg | NC1(CC1)C(=O)N[C@H](C)C1=CC=C(C=C1)C=1C(=C(C=CC1)F)C(=O)O | C19H19FN2O3
reactant | N,N-diisopropylethylamine | C(C)(C)N(C(C)C)CC | C8H19N
solvent | DCM | 1 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 1 mL | C(Cl)Cl | CH2Cl2
product | 3-fluoro-4′-{(1R)-1-[({1-[(3,3,3-trifluoropropanoyl)amino]cyclopropyl}carbonyl)amino]ethyl}-1,1′-biphenyl-2-carboxylic acid | FC1=C(C(=CC=C1)C1=CC=C(C=C1)[C@@H](C)NC(=O)C1(CC1)NC(CC(F)(F)F)=O)C(=O)O | C22H20F4N2O4
